US04117128
When 3-(4-hydroxyphenylsulfonyl)-2-phenylbenzofuran is reacted with 3-dimethylaminopropyl chloride by the procedure described in Example 1, 3-[4-(3-dimethylaminopropoxy)phenylsulfonyl]-2-phenylbenzofuran is obtained.

reactant | 3-(4-hydroxyphenylsulfonyl)-2-phenylbenzofuran | OC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=CC=C2 | C20H14O4S
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
product | 3-[4-(3-dimethylaminopropoxy)phenylsulfonyl]-2-phenylbenzofuran | CN(CCCOC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=CC=C2)C | C25H25NO4S
